Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
___ Complaint:
shortness of breath
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
The patient is a ___ year old male with a history of DM, morbid 
obesity, dyslipidemia, HTN, and ? CAD who presents with 
complaints of shortness of breath to an OSH, now transfered to 
the ___ with concerns of cardiogenic shock.
.
The patient reports a history of angial pain with activity in 
the past, but has been asymptomatic for many years since being 
started on his current medication regimen. He reports two prior 
stress tests, the patient is unclear of the results. He reports 
being able to do his ADLs, but can only walk 2 blocks, limited 
by fatigue. However, on repeat questioning, reports episode 
within the last month of experiencing substernal chest pain, 
lasting many hours. Patient was hesitant to activate EMS, and 
pain eventually went away.
.
Starting six months ago, the patient developed significant 
orthopnea, has has to sleep sitting up in a chair. He has 
baseline lymphedma, an cannot comment regarding worsening ___ 
swelling. Since ___, the patient has felt marked 
dysnpnea, for which he saw his cardiologist. A TTE was 
performed, which by report, is notably worse than one from ___ 
years prior, with an EF of 20%. The patient was supposed to see 
his cardiologist in clinic the day of presentation, but felt too 
dysnpnic to clean his car of snow, so he activated EMS, and was 
brought to ___ for further care.
.
At the OSH ED, the patient's vitas were HR 100, BP 106/38, and 
99% on an unclear O2. The patient was noted to have a large left 
pleural effusion, for which he underwent a thoracentesis, with 
removal of 1 L liter serous fluid with protein count consistent 
with an exudative process by lytes criteria. The patient was 
believed to be in decompensated heart failure. He was given 60mg 
of IV lasix. Initial cardiac markers showed a troponin I of 
0.16, CK of 63. The patinet was given heparin, plavix, and IV 
metoprolol. After receiving the BB and lasix, the patient had 
worsening blood pressures in the ___, and was started on 
dobutamine per recommendations from cardiology, and transferred 
to ___ for further care.
.
On arrival, his HR was 115, BP of 80/50, and 94% on 6L NC. An 
EKG was obtained that showed concerning inferior ST elevation 
with reciprocal lateral changes. The patient was started on 
integrillin.  His dobutamine was weened off, and pressures 
improved.
.
On review of systems, he denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the 
time of surgery, myalgias, joint pains, cough, hemoptysis, black 
stools or red stools. He denies recent fevers, chills or rigors. 
He denies exertional buttock or calf pain. All of the other 
review of systems were negative.
.
Cardiac review of systems is notable for absence of chest pain, 
palpitations, syncope or presyncope. 
 
Past Medical History:
1. CARDIAC RISK FACTORS:: Diabetes, Dyslipidemia, Hypertension
2. CARDIAC HISTORY:
- Anginal Pain
3. OTHER PAST MEDICAL HISTORY:
.
Morbid Obesity
Hypothyroidism (s/p thyroiectomy)
.
MEDICATIONS:
.
Lisinopril 40mg
Metoprolol 50mg BID
Synthroid 75 mcg daily
Glyburide 5mg daily
Zocor 80mg daily
Lasix 60mg daily
ASA 325mg daily
Colace 100mg daily
. 
 
Social History:
___
Family History:
No family history of early MI, otherwise non-contributory.
 
Physical Exam:
VS: T=98.6 BP= 82/50 HR=120 RR= 30 O2 sat= 92% on 6L
GENERAL: Morbidly obese male tachypnic and diaphoretic. . 
Oriented x3. Mood, affect appropriate.
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.
NECK: Supple with JVP of 10 cm.
CARDIAC: Muffled heart sounds, difficult to asuclatate.
LUNGS: Decreased breath sounds on left to mid lung fiel, rales 
up to apex, on right decreased breath sounds at baxe, and rales 
___ way up.
ABDOMEN: Obese with pronouced panus. , Soft, NTND. No HSM or 
tenderness. Abd aorta not palpated. No abdominial bruits.
EXTREMITIES: Marked stasis dermatitis b/l.
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
PULSES:
Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 1
Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 1 
 
Pertinent Results:
Laboratory studies:
.
___ 12:33AM BLOOD WBC-10.4 RBC-3.48* Hgb-10.7* Hct-31.5* 
MCV-91 MCH-30.8 MCHC-34.0 RDW-13.7 Plt ___
___ 06:16AM BLOOD WBC-13.6* RBC-3.37* Hgb-10.1* Hct-29.4* 
MCV-87 MCH-29.9 MCHC-34.3 RDW-13.7 Plt ___
___ 05:36AM BLOOD WBC-10.0 RBC-3.34* Hgb-9.8* Hct-28.6* 
MCV-86 MCH-29.3 MCHC-34.2 RDW-13.6 Plt ___
.
___ 12:33AM BLOOD ___ PTT-76.7* ___
___ 05:36AM BLOOD ___ PTT-46.3* ___
.
___ 12:59AM BLOOD Glucose-227* UreaN-25* Creat-1.3* Na-137 
K-3.8 Cl-101 HCO3-22 AnGap-18
___ 03:21PM BLOOD Glucose-136* UreaN-26* Creat-1.3* Na-136 
K-4.2 Cl-97 HCO3-29 AnGap-14
___ 05:21AM BLOOD Glucose-140* UreaN-23* Creat-1.1 Na-139 
K-3.6 Cl-104 HCO3-25 AnGap-14
.
___ 12:59AM BLOOD ALT-91* AST-72* LD(LDH)-224 CK(CPK)-72 
AlkPhos-92 TotBili-0.9
.
___ 06:16AM BLOOD CK(CPK)-108
___ 03:27PM BLOOD CK(CPK)-113
___ 05:36AM BLOOD CK(CPK)-68
___ 12:59AM BLOOD CK-MB-NotDone cTropnT-0.10*
___ 06:16AM BLOOD CK-MB-6 cTropnT-0.15*
___ 03:27PM BLOOD CK-MB-6 cTropnT-0.17*
___ 05:21AM BLOOD CK-MB-NotDone cTropnT-0.15*
___ 05:36AM BLOOD CK-MB-NotDone cTropnT-0.18*
.
___ 12:59AM BLOOD Albumin-3.0* Calcium-8.8 Phos-4.2 Mg-2.2
.
___ 06:16AM BLOOD %HbA1c-5.8
___ 06:16AM BLOOD TSH-0.29
.
___ 11:53AM URINE Color-Straw Appear-Hazy Sp ___
___ 11:53AM URINE Blood-LG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.0 Leuks-NEG
___ 11:53AM URINE RBC-73* WBC-2 Bacteri-FEW Yeast-NONE 
Epi-0
___ 11:53AM URINE CastHy-5*
.
Microbiology:
.
   Blood Culture, Routine (Preliminary): 
      BACILLUS SPECIES; NOT ANTHRACIS. 

   Aerobic Bottle Gram Stain (Final ___: 
      THIS IS A CORRECTED REPORT ___. 
      REPORTED BY PHONE TO ___ ___ ___. 
      GRAM POSITIVE ROD(S). 
      PREVIOUSLY REPORTED AS GRAM POSITIVE COCCI IN CHAINS. 
      REPORTED BY PHONE TO ___. ___ ___.
.
Urine Cx - negative
Blood Cx ___ other than above-  pending
.
Studies/Imaging:
.
Baseline artifact. Sinus tachycardia with a single ventricular 
premature beat.
Low limb lead voltage. Intraventricular conduction delay. 
Inferior ST segment
elevation with ST segment depression in leads I, aVL and 
elevation in lead V1.
Consider inferior myocardial infarction. Q waves in leads V1-V3. 
Consider
anterior wall myocardial infarction of indeterminate age. Low 
voltage,
particularly in the limb and lateral precordial leads. Clinical 
correlation is
suggested. No previous tracing available for comparison.
 
Read ___.
 ___
___
.
ECHO ___ - The left atrium is moderately dilated. There is 
mild symmetric left ventricular hypertrophy. The left 
ventricular cavity is mildly dilated. There is severe global 
left ventricular hypokinesis, with near-akinesis of the inferior 
wall (LVEF = ___, most consistent with multivessel coronary 
artery disease. The right ventricular cavity is mildly dilated 
with mild global free wall hypokinesis. The aortic valve 
leaflets are severely thickened/deformed. Significant aortic 
stenosis is present, but its precise quantification is limited 
by low stroke volume. No aortic regurgitation is seen. The 
mitral valve leaflets are mildly thickened. There is no mitral 
valve prolapse. Mild (1+) mitral regurgitation is seen. There is 
moderate pulmonary artery systolic hypertension. There is a 
trivial/physiologic pericardial effusion.

IMPRESSION: Dilated and hypertrophied left ventricle with severe 
global systolic dysfunction, most c/w multivessel CAD. 
Significant aortic stenosis. Moderate pulmonary hypertension.
.
CXR ___ - FINDINGS: No previous images. There is enlargement 
of the cardiac silhouette
with pulmonary vascular congestion. Opacification at the left 
base most
likely represents pleural effusion with underlying atelectasis. 
The
possibility of supervening pneumonia can certainly not be 
excluded. A lateral
view would be most helpful if the condition of the patient 
permits.
.
CXR ___:
Compared to the prior study, there is no significant interval 
change in the
moderate cardiomegaly, pulmonary vasculature congestion, 
bilateral pleural
effusions, left greater than right and dense retrocardiac 
opacity.
 
IMPRESSION: Persistent pulmonary edema. An underlying infectious 
infiltrate
cannot be totally excluded.
.
___ - b/l, no signs of DVT.  Preliminary.
 
Brief Hospital Course:
Patient is a ___ year old morbidly obese male with a hx of DM, 
HTN, dyslipidemia, CAD presenting with decombensated heart 
failure and possible ACS vs. PE.
.
# CORONARIES: While the patient only reported a history of 
anginal pain, EKG with evidence of prior anteroseptal infarct. 
This would remain consistent with new finding of reduced EF to 
20% on recent TTE. He had no complaints of chest pain during 
admission, although he is a diabetic.  EKG was concerning for a 
STEMI, with elevation only limited to a single lead.  On 
transfer, given concern for ACS, pt was started on ASA, Plavix, 
heparin gtt and integrillin gtt.  Metoprolol was held due to 
relative hypotension. Given tachycardia, HF, previous treatment 
with dobutamine, flat CKs and mild elevations of troponins, he 
was felt to have demand ischemia in inferior region w/ an 
overlying possible remote anterolateral infarct during the prior 
month (as CP reported in HPI and Qw in V1-3).  Integrillin gtt 
was discontinued on ___, heparin and remainder of above 
regimen was continued.  Metoprolol 12.5 mg TID was started on 
___ for tachycardia and to increase time in diastole and 
reduce demand.  Pt was diuresed for HF (see below).  No further 
intervention taken and pt was continued on aspirin, statin and 
metoprolol.
.
# PUMP: Pt. presented w/ dyspnea at rest, JVD, and CXR 
consistent w/ CHF.  Precipitous events of decompensated HF were 
not clear, but a possible old anterolateral infarct ~ 1mo ago 
was a most likely possibility, along w/ a possible pulmonary 
infection given exudative effusion (see below).  TTE showed 
dilated and hypertrophied left ventricle with severe global 
systolic dysfunction, most c/w multivessel CAD, EF ___. 
Significant aortic stenosis. Moderate pulmonary hypertension.  
New TTE findings and q-waves on EKG were consistent w/ recent MI 
with worsening heart failure.  Patient was started on lasix gtt. 
 Given -1L on 15mg of lasix gtt, metolazone was started to aid 
diuresis.  Pt was diuresed 2 Liters per day while in hospital. 
Pt. dyspnea at rest resolved by ___.  He was continued on low 
dose metoprolol.  Subsequently the Lasix gtt and Metolazone were 
discontinued, and Torsemide 40mg daily with acetazolamide was 
begun. (pt had contraction alkalosis on labs).  He continue to 
diurese and alkalosis improved.  ACE inhibitor was held ___ low 
BP and could not tolerate the addition.
.
# RHYTHM/PE: Sinus tachycarida. Likely secondary to decopensated 
heart failure, hypoxia.  Pulmonary embolis could not be ruled 
out given impaired renal function and a nl CXR.  LENIs b/l were 
negative, but limited by body habitus.  Given high risk of this 
patient for PE, he was started on heparin gtt and transitioned 
to warfarin. Although ultimately it was not felt that the 
patient had a PE, he was continued on coumadin for prophylaxis 
given his body habitus and sedentary lifestyle.  
Tachycardia improved to 80-90s w/ low dose metoprolol.
.
# Pulmonary Effusion.  Based on OSH results, was consistent w/ 
exudative effusion w/ 5950 WBCs, 75% PMNs, 20K RBCs and LDH > 
200.  Cytology from OSH was negative for malignant cells, smear 
showed PMNs w/o organisms and Cx were negative. Patient 
developed low grade fevers to 100.2F.  These findings were felt 
to be most consistent w/ a parapneumonic effusion, and patient 
was started on a 5 day course of Levofloxacin which he 
completed.  PPD was placed to r/o TB given exudative nature of 
effusion and was negative.  All surveillence blood cultures were 
negative. 
.
# Diabetes.  Home glyburide was held and patient was started on 
lantus and sliding scale while.  Hbg a1c was 5.8 suggesting good 
control of DM.  He continued to require Lantus and did well on 
16U/day however will need this titrated down as pt recovers.
.
# Hypothyroidism.  TSH was 0.29.  Pt was continued on home dose 
of synthroid. 
.
# Anemia - Pt noted have have Hct 31 although baseline was 
unknown.  Iron studies drawn were consistent with anemia of 
chronic disease.  Folate was within normal limits and his B12 
level was borderline low.  No evidence of hemolysis on labs.  He 
did have a guiac positive stool.  He was supplemented with iron, 
b12 and folate and Hct improved to 32. 
.
# Prophylaxis - Pt was felt to be a high risk for PE, LENIs were 
negative. He was initially started on heparin gtt and bridged to 
coumadin
 
Medications on Admission:
Lisinopril 40mg
Metoprolol 50mg BID
Syntorid ___ mcg daily
Glyburide 5mg daily
Zocor 80mg daily
Lasix 60mg daily
ASA 325mg daily
Colace 100mg daily 
 
Discharge Medications:
1. Atorvastatin 80 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. Warfarin 5 mg Tablet Sig: One (1) Tablet PO Once Daily at 4 
___.  
3. Levothyroxine 75 mcg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily).  
4. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
5. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.  
6. Bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily) as needed for 
constipation.  
7. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
8. Metoprolol Tartrate 25 mg Tablet Sig: One (1) Tablet PO TID 
(3 times a day).  
9. Ferrous Sulfate 325 mg (65 mg Iron) Tablet Sig: One (1) 
Tablet PO TID (3 times a day).  
10. Pyridoxine 50 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
11. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
12. Cyanocobalamin 250 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
13. Torsemide 20 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
14. Insulin Glargine 100 unit/mL Solution Sig: Fourteen (14) 
units Subcutaneous at bedtime.  
15. Humalog 100 unit/mL Solution Sig: One (1) injection 
Subcutaneous four times a day: per standard sliding scale.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary: Heart failure, systolic; Pulmonary effusion, pneumonia
Secondary: Diabetes, hypertension, hyperlipidemia, morbid 
obesity
 

 
Discharge Condition:
Hemodynamically stable, afebrile.

 
Discharge Instructions:
You were admitted to ___ from outside hospital with 
significant heart failure, concern for a heart attack and 
concern for fluid in your lungs.  

You were evaluated further and it was felt that most of your 
symptoms were due to heart failure.  You were also found to have 
fluid your lungs that was concerning for pneumonia, thus you 
were treated with antibiotics.  A TB test was performed and was 
negative. There was also concern for malignancy.  This should be 
addressed with you outpatient provider.

For your heart failure, you were treated with intravenous lasix 
and metolazone.  You shortness of breath improved significantly. 
 Your blood pressures were low, so your antiblood pressure 
medications were changed.  Because of your poor heart function 
and high risk for a vein or lung clot, you were started on 
coumadin.  

In addition, you were started on insulin because your sugar was 
high in the hospital. This will ideally be titrated off while in 
rehab.

You were also started on several other medications.  Please 
review the list below and please take the medications as 
prescribed below.

Weigh yourself every morning, call MD if weight > 3 lbs.
Adhere to 2 gm sodium diet
Fluid Restriction: 1.5L over 24 hours.

You were discharged from the hospital in good condition.

Should you experience any worsening shorntess of breath, chest 
pain, left arm weakness, fevers, chills, cough productive of 
sputum or blood, weight loss, nightsweats, or any other symptom 
concerning to you, please call your primary care provider or go 
to the nearest emergency room.
 
Followup Instructions:
___